US07781593B2
Palladium on charcoal (18 mg, 10%) was added to a solution of 5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-prop-1-ynyl)-nicotinamide (100 mg, 0.25 mmol) in ethylacetate (12 mL). The mixture was hydrogenated for 2 h at room temperature and 0.4 bar positive hydrogen pressure after which the theoretical amount of hydrogen had been consumed. The catalyst was then filtered off and the solvent was evaporated to afford 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-propyl)-nicotinamide without further purification as a orange solid 93 mg (92% yield). m/z (ISP+): 403.2, 405.2 (M+H).

reactant | 5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-prop-1-ynyl)-nicotinamide | 0.25 mmol, 100 mg | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)C#CCOC | C22H23ClN2O3
catalyst | Palladium on charcoal | 18 mg | [Pd] | Pd
solvent | ethylacetate | 12 mL | C(C)OC(C)=O | C4H8O2
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(3-methoxy-propyl)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)CCCOC | C22H27ClN2O3
